US06399629B1
(C) cis-4-p-Toluenesulphonyloxy-N-tert-Butoxycarbonyl-L-Proline 5-Indanylamide
4-Dimethylaminopyridine (4.1 g) and p-toluenesulphonyl chloride (4.8 g) were added to a solution of cis-4-hydroxy-N-tert-butoxycarbonyl-L-proline 5-indanylamide (B, 5.8 g) in dichloromethane (85 mL) at 0° C. After stirring at room temperature for 6 hr, additional 4-dimethylaminopyridine (1.0 g) and p-toluenesulphonyl chloride (1.6 g) were added. The resulting solution was stirred at room temperature for 19 hr, and the solvent was evaporated in vacuo. The residue was diluted with ethyl acetate, and washed with 0.5 M citric acid, saturated sodium hydrogen carbonate, and brine. The organic layer was dried over anhydrous sodium sulfate and evaporated in vacuo to afford the title compound (7.4 g) as a pale brown sticky oil: 1H NMR (400 MHz, CD3OD) δ 1.3-1.6 (m, 9H), 2.10 (m, 2H), 2.2 (m, 1H), 2.39 (s, 3H), 2.5 (m, 1H), 2.88 (m, 4H), 3.68 (m, 2H), 4.3-4.4 (m, 1H), 5.17 (m, 1H), 7.15 (m, 2H), 7.31-7.35 (m, 3H), and 7.73 (d, J=7.8 Hz, 2H).

reactant | p-toluenesulphonyl chloride | 4.8 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | cis-4-hydroxy-N-tert-butoxycarbonyl-L-proline 5-indanylamide | 5.8 g | C1CCC2=CC(=CC=C12)NC([C@H]1N(C[C@H](C1)O)C(=O)OC(C)(C)C)=O | C19H26N2O4
reactant | p-toluenesulphonyl chloride | 1.6 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
catalyst | 4-Dimethylaminopyridine | 4.1 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 85 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1.0 g | CN(C1=CC=NC=C1)C | C7H10N2
product | cis-4-p-Toluenesulphonyloxy-N-tert-Butoxycarbonyl-L-Proline 5-Indanylamide | 7.4 g | C1CCC2=CC(=CC=C12)NC([C@H]1N(C[C@H](C1)OS(=O)(=O)C1=CC=C(C=C1)C)C(=O)OC(C)(C)C)=O | C26H32N2O6S
